US07749992B2
Step 5. Preparation of 2-[tert-Butoxycarbonyl-(3-methoxycarbonyl-propyl)-amino]-5-methyl-4-trifluoromethoxy-benzoic acid methyl ester
Add methyl 4-bromobutyrate (1.1 g, 6.0 mmol) and cesium carbonate (3.9 g, 12.0 mmol) to a DMF solution of 2-(tert-butoxycarbonylamino)-5-methyl-4-trifluoromethoxy-benzoic acid methyl ester (1.4 g, 4.0 mmol) under nitrogen. After stirring at 60° C. for 5 hours, the reaction mixture is cooled to room temperature and diluted with ethyl acetate (150 mL). Wash the organics with water (2×150 mL) followed by brine (100 mL), dry over sodium sulfate, and filter. Remove the solvent under vacuum and chromatograph the crude product over silica gel using ethyl acetate/hexane (5-30%) to elute. This provides the title compound (1.1 g, 61%) as an oil: H NMR (CDCl3, 400 MHz) δ 1.28 (s, 6H), 1.49 (s, 3H), 1.91 (m, 2H), 2.33 (m, 5H), 3.39 (m, 1H), 3.63 (s, 3H), 3.77 (m, 1H), 3.86 (bs, 3H), 7.06 (m, 1H), 7.80 (m, 1H). MS (ES+): 350 (M+H-100).

reactant | methyl 4-bromobutyrate | 6.0 mmol, 1.1 g | BrCCCC(=O)OC | C5H9BrO2
reactant | cesium carbonate | 12.0 mmol, 3.9 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | DMF | CN(C)C=O | C3H7NO
reactant | 2-(tert-butoxycarbonylamino)-5-methyl-4-trifluoromethoxy-benzoic acid methyl ester | 4.0 mmol, 1.4 g | COC(C1=C(C=C(C(=C1)C)OC(F)(F)F)NC(=O)OC(C)(C)C)=O | C15H18F3NO5
solvent | ethyl acetate | 150 mL | C(C)(=O)OCC | C4H8O2
product | 2-[tert-Butoxycarbonyl-(3-methoxycarbonyl-propyl)-amino]-5-methyl-4-trifluoromethoxy-benzoic acid methyl ester | 1.1 g, 61% | COC(C1=C(C=C(C(=C1)C)OC(F)(F)F)N(CCCC(=O)OC)C(=O)OC(C)(C)C)=O | C20H26F3NO7
